US04983608
6-Chloro-N-(3-methyl-1H-indol-1-yl)-N-propyl-4-pyrimidinamine
To a suspension of NaH (60% in oil, 1.52 g) in 40 ml dimethylformamide (hereafter DMF) at ice bath temperature was added 9.0 g of 6-chloro-N-(3-methyl-1H-indol-1-yl)-4-pyrimidinamine dropwise, in 50 ml DMF. After addition was complete, the reaction was stirred for 5 minutes and then 3.45 ml of 1-bromopropane was added dropwise to the cool mixture. Reaction was allowed to proceed for 4 hours at room temperature. The mixture was then poured into water and extracted with ethyl acetate. The organic layer was washed with water and dried (sat. NaCl, anhy. MgSO4).

reactant | NaH | 1.52 g | [H-].[Na+]
reactant | 6-chloro-N-(3-methyl-1H-indol-1-yl)-4-pyrimidinamine | 9.0 g | ClC1=CC(=NC=N1)NN1C=C(C2=CC=CC=C12)C | C13H11ClN4
reactant | 1-bromopropane | 3.45 ml | BrCCC | C3H7Br
reactant | water | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 6-Chloro-N-(3-methyl-1H-indol-1-yl)-N-propyl-4-pyrimidinamine | ClC1=CC(=NC=N1)N(CCC)N1C=C(C2=CC=CC=C12)C | C16H17ClN4
